Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]1[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]1[H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],1.5663741451
[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.44364252698
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])([H:8])[H:9],-0.85070797839
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],4.44014699117
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5]#[C:6]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-4.902147895390001
[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.13278499606
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]#[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:4],2.14222373815
[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:7](=[O:8])[H:9]>>[H:6].[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:7](=[O:8])[H:9],4.020078745859999
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-3.5095309179300003
[C:7]([H:8])[H:9].[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.43767760166
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11],2.7696935907
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12].[O:1]=[C:2][H:3],3.75233196007
[H:1][O:2][C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C@:3]([C:4]([H:5])=[C:6]([H:7])[H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],4.62994111679
[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-1.79970164385
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],5.34341426035
[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8].[O:9][H:10]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-4.66911889955
[C:1]#[C:2][C:3]([H:4])([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-3.14662538324
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:4](\[O:5][H:6])=[C:7](\[H:8])[O:9][H:10].[H:1][C:2]#[C:3],6.19502113288
[C:8]([H:9])([H:10])[H:11].[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.6016177366300006
[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.96054256424
[H:1][C:2]#[C:3][C:4]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.3156806655299995
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][O:8][H:9]>>[C:4]([H:5])#[C:6][C:7][O:8][H:9].[H:1][O:2][C:3],3.78211906604
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-3.3839278266500004
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],4.76589139825
[H:15].[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][C:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.5495283228400005
[H:1][C:2][O:3][C:4]=[C:5]1[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],0.23358458257
[H:1][C:2]([H:3])[O:11][C:8]([C:5]([C:4])([H:6])[H:7])([H:9])[H:10]>>[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11]1,-3.51581259
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11].[H:3],3.932838914840002
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:4],4.1124780873
